US07834009B2
2-(3-Cyano-propionyl)-2,5-dimethyl-hex-4-enoic Acid Ethyl Ester
A solution of 2-acetyl-2,5-dimethyl-hex-4-enoic acid ethyl ester (1.0 g, 4.71 mmol) in anhydrous tetrahydro furan (30 mL) was treated with a 1.0 M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (5.2 mL, 5.18 mmol) at −78° C. The reaction mixture was stirred at −78° C. for 30 min and was then added via cannula to a solution of bromoacetonitrile (which was stirred for 30 min over basic aluminum oxide, filtered and used fresh in the reaction) in anhydrous tetrahydrofuran (5 mL) cooled to −78° C. The reaction mixture was stirred at −78° C. for 1 h, before it was allowed to warm to 25° C. and quenched by pouring it over ice in a 1.0 M aqueous hydrochloric acid solution. The mixture was extracted with ethyl acetate (3×100 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. Further purification by flash column chromatography (ISCO RediSep column, 0 to 40% ethyl acetate in hexanes) afforded the desired product, 2-(3-cyano-propionyl)-2,5-dimethyl-hex-4-enoic acid ethyl ester (0.71 g, 71%), as an oil. 1H NMR (400 MHz, CDCl3) δ: 1.28 (3H, t, J=7.0 Hz), 1.36 (3H, s), 1.63 (3H, s), 1.70 (3H, s), 2.52-2.62 (4H, m), 2.76-2.91 (2H, m), 4.20 (2H, q, J=7.0 Hz), 4.91-4.95 (1H, m). LC-MS (ESI) calcd for C14H21NO3: 251.15, found 252.3 [M+H+].

reactant | 2-acetyl-2,5-dimethyl-hex-4-enoic acid ethyl ester | 4.71 mmol, 1.0 g | C(C)OC(C(CC=C(C)C)(C)C(C)=O)=O | C12H20O3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | tetrahydro furan | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.18 mmol, 5.2 mL | O1CCCC1 | C4H8O
product | 2-(3-cyano-propionyl)-2,5-dimethyl-hex-4-enoic acid ethyl ester | 0.71 g, 71% | C(C)OC(C(CC=C(C)C)(C)C(CCC#N)=O)=O | C14H21NO3
